US06492394B1
Tert-butyl-2(R)-[(tert-butoxycarbonyl)amino]-3-phthalimido-propionate (8.58 g, 21.8 mmol) was taken up in a anhydrous solution of hydrochloric acid in dioxane (100 ml, 4% wt/wt). The reaction flask was fitted with a rotovap trap, which was topped with a teflon stopper and the mixture was heated to 80° C. (use a plexiglass shield for safety). After 1.5 hours the material was cooled to ambient temperature and all volatiles removed on the rotary evaporator. The white solid was taken up in methylene chloride (100 ml) and transferred to a seperatory funnel. The solution was partitioned with an equal volume of aqueous sodium hydroxide (1.0 N) and the organic phase collected. This was subsequently shaken with brine solution (2×100 ml, consecutively) and the aqueous phases back extracted with methylene chloride (3×100 ml). The organic phases were combined, dried (MgSO4), filtered and condensed to provide tert-butyl-2(R)-amino-3-phthalimido-propionate (5.7 g) as a white powder.

reactant | Tert-butyl-2(R)-[(tert-butoxycarbonyl)amino]-3-phthalimido-propionate | 21.8 mmol, 8.58 g | C(C)(C)(C)OC([C@@H](CN1C(C=2C(C1=O)=CC=CC2)=O)NC(=O)OC(C)(C)C)=O | C20H26N2O6
reactant | hydrochloric acid | Cl | ClH
reactant | plexiglass | CC(=C)C(=O)OC | C5H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | tert-butyl-2(R)-amino-3-phthalimido-propionate | 5.7 g | C(C)(C)(C)OC([C@@H](CN1C(C=2C(C1=O)=CC=CC2)=O)N)=O | C15H18N2O4
